US06486153B1
a) 3-[2-(Piperidin-1-yl)prop-1-yl]-1H-indole
To a solution of indole-3-acetone (5.0 g, 29 mmol) in anhydrous 1,2-dichloroethane (100 ml) under an atmosphere of nitrogen was added piperidine (2.9 ml, 29 mmol), and glacial acetic acid (1.66 ml, 29 mmol) followed by sodium triacetoxyborohydride (6.8 g, 32 mmol). On complete addition the reaction mixture was stirred at room temperature for 17 hours. The mixture was basified by the addition of a saturated solution of sodium hydrogen carbonate, the layers were separated and the organic layer dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue was purified by column chromatography on silica elution with 5% CH3OH in CH2Cl2+0.5% 0.88 ammonia to give the title product (3 g, 43%); δH (360 MHz; CDCl3) 0.99 (3H, d, J 6.5 Hz, —CH3), 1.43-1.51 (2H, m, aliphatics), 1.60-1.69 (4H, m, aliphatics), 2.56-2.70 (5H, m, aliphatics+indole CHACHB), 2.87-2.99 (1H, m, indole CHAHBCH (piperidine)), 3.12 (1H, dd, J 13.9 and 3.6 Hz, indole CHACHB), 7.02 (1H, d, J 1.9 Hz, indole H2), 7.09 (1H, m, indole H6), 7.17 (1H, m, indole H5), 7.34 (1H, d, J 8.0 Hz, indole H7), 7.61 (1H, d, J 7.6 Hz, indole H4), 8.01 (1H, bs, indole NH); m/z (ES+) 243 (M++H, 100%).

reactant | indole-3-acetone | 29 mmol, 5.0 g | CC(=O)CC1=CNC2=CC=CC=C21 | C11H11NO
reactant | piperidine | 29 mmol, 2.9 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 29 mmol, 1.66 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 32 mmol, 6.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 3-[2-(Piperidin-1-yl)prop-1-yl]-1H-indole | 3 g, 43% | N1(CCCCC1)C(CC1=CNC2=CC=CC=C12)C | C16H22N2
